US08217032B2
8-Fluoro-5-[4-(2-piperidin-1-yl-ethylamino)-phenyl]-5H-6-oxa-chrysen-2-ol dihydrochloride
Dissolve [4-(8-fluoro-2-methoxy-5H-6-oxa-chrysen-5-yl)-phenyl]-(2-piperidin-1-yl-ethyl)-carbamic acid tert-butyl ester in dichloromethane (25 mL). Add a 1.0 M solution of hydrogen chloride in ether (5 mL). Concentrate in vacuo. Redissolve in dichloromethane (20 mL). Cool to 0° C. Add boron tribromide (0.238 mL, 2.52 mmol). After 3 hrs dilute with saturated aqueous sodium bicarbonate (10 mL) and methanol (10 mL). Separate the organic layer and wash the aqueous layer twice with dichloromethane. Combine the organics and dry over magnesium sulfate. Filter and concentrate in vacuo. Purify the residue by column chromatography using a silica gel column eluting with a linear gradient beginning with dichloromethane and ending with 4:1 dichloromethane:methanol. Combine the product containing fractions and add 1.0 M hydrogen chloride in ether (2 mL). Concentrate in vacuo to isolate the title compound: mass spectrum (ion spray) m/z=469.2 (M+H). Purify the mixture by chiral chromatography (conditions A). The two isomers eluted with retention times of 4.02 and 5.46 minutes.

reactant | [4-(8-fluoro-2-methoxy-5H-6-oxa-chrysen-5-yl)-phenyl]-(2-piperidin-1-yl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCN1CCCCC1)C1=CC=C(C=C1)C1C2=C3C=CC(=CC3=CC=C2C2=CC=C(C=C2O1)F)OC)=O | C36H39FN2O4
reactant | hydrogen chloride | Cl | ClH
reactant | boron tribromide | 2.52 mmol, 0.238 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 8-Fluoro-5-[4-(2-piperidin-1-yl-ethylamino)-phenyl]-5H-6-oxa-chrysen-2-ol dihydrochloride | Cl.Cl.FC=1C=C2OC(C3=C4C=CC(=CC4=CC=C3C2=CC1)O)C1=CC=C(C=C1)NCCN1CCCCC1 | InChI=1S/C30H29FN2O2.2ClH/c31-22-7-12-26-27-11-6-21-18-24(34)10-13-25(21)29(27)30(35-28(26)19-22)20-4-8-23(9-5-20)32-14-17-33-15-2-1-3-16-33;;/h4-13,18-19,30,32,34H,1-3,14-17H2;2*1H
